US08455525B2
4-((1R,2S)-1-(5-(4-Bromophenyl)-1,3,4-oxadiazol-2-yl)-2-(tert-butyldimethylsilyloxy)propylamino)-2-chloro-3-methylbenzonitrile
To a solution of triphenylphosphine (4.23 g, 16.1 mmol) in DCM (200 mL) was added 12 (4.1 g, 16.2 mmol) at 0° C. After 12 was dissolved completely, Et3N (4.5 mL, 32.3 mmol) was added, followed by a solution of 4-bromo-N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-benzohydrazide (4.68 g, 8.1 mmol) in DCM (100 mL). The reaction mixture was allowed to warm to room temperature and stirred for additional 15 min. The reaction was quenched with saturated sodium thiosulfate (50 mL) and diluted with DCM (400 mL). The organic layer was separated and washed with water, brine, dried over Na2SO4, filtered and concentrated. The resulting residue was purified by flash chromatography to provide the title compound (4.03 g, 89%), which was used directly in the next step

reactant | triphenylphosphine | 16.1 mmol, 4.23 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Et3N | 32.3 mmol, 4.5 mL | CCN(CC)CC | C6H15N
reactant | 4-bromo-N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-benzohydrazide | 8.1 mmol, 4.68 g | BrC1=CC=C(C(=O)NNC([C@@H]([C@H](C)O[Si](C)(C)C(C)(C)C)NC2=C(C(=C(C=C2)C#N)Cl)C)=O)C=C1 | C25H32BrClN4O3Si
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-((1R,2S)-1-(5-(4-Bromophenyl)-1,3,4-oxadiazol-2-yl)-2-(tert-butyldimethylsilyloxy)propylamino)-2-chloro-3-methylbenzonitrile | 4.03 g, 89% | BrC1=CC=C(C=C1)C1=NN=C(O1)[C@@H]([C@H](C)O[Si](C)(C)C(C)(C)C)NC1=C(C(=C(C#N)C=C1)Cl)C | C25H30BrClN4O2Si
